US04461912
2-[4-(2-Hydroxycyclopentylidenemethyl)phenyl]propionic acid
123 mg of 2-[4-(2-oxocyclopentylidenemethyl)phenyl]propionic acid (which can be prepared as described in United Kingdom Patent Specification No. 2,002,762) and 75 mg of sodium cyanoborohydride were dissolved in 5 ml of methanol. The pH of the solution was adjusted to a value of 3 by the addition of 6N hydrochloric acid, whilst ice-cooling. The mixture was stirred under reflux for 40 minutes, after which it was diluted with ice-water and then extracted with diethyl ether. The extract was washed with water and then the solvent was distilled off to give crystals. These were recrystallised from a 1:1 by volume mixture of ethyl acetate and hexane, to give 80 mg of the title compound, melting at 125°-132° C.

reactant | 2-[4-(2-oxocyclopentylidenemethyl)phenyl]propionic acid | 123 mg | O=C1C(CCC1)=CC1=CC=C(C=C1)C(C(=O)O)C | C15H16O3
reactant | sodium cyanoborohydride | 75 mg | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 2-[4-(2-Hydroxycyclopentylidenemethyl)phenyl]propionic acid | 80 mg | OC1C(CCC1)=CC1=CC=C(C=C1)C(C(=O)O)C | C15H18O3
